US05124336
3 g of 5-[1-(4-chlorobenzyl)-5-fluorobenzimidazol-2-yl]-4,4-dimethylvaleronitrile, prepared in Example 157, are dissolved in a mixture composed of 30 ml of water and 30 ml of ethanol. 3 g of sodium hydroxide pellets are added and the mixture is refluxed for 15 hours. After cooling, 100 ml of water are added and the solution obtained is washed with ether. The aqueous phase is acidified by having sulfur dioxide bubbled through it and the crystals obtained are filtered off, washed with water and then with isopropyl ether and dried to give 2.3 g of 5-[1-(4-chlorobenzyl)-5-fluorobenzimidazol-2-yl]-4,4-dimethylpentanoic acid in the form of crystals melting at 184°-6° C.

reactant | 5-[1-(4-chlorobenzyl)-5-fluorobenzimidazol-2-yl]-4,4-dimethylvaleronitrile | 3 g | ClC1=CC=C(CN2C(=NC3=C2C=CC(=C3)F)CC(CCC#N)(C)C)C=C1 | C21H21ClFN3
reactant | ethanol | 30 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 3 g | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
solvent | water | 30 ml | O | H2O
product | 5-[1-(4-chlorobenzyl)-5-fluorobenzimidazol-2-yl]-4,4-dimethylpentanoic acid | 2.3 g | ClC1=CC=C(CN2C(=NC3=C2C=CC(=C3)F)CC(CCC(=O)O)(C)C)C=C1 | C21H22ClFN2O2
